US04503073
Sodium 2-amino-5-chloro-3-(4-methylthiobenzoyl)phenylacetate hydrate [4:3]
A mixture of 6.4 g (20.0 mmol) of 5-chloro-7-(4-methylthiobenzoyl)indolin-2-one in 110 ml of 3N sodium hydroxide was heated at 100° C. in an oil bath and stirred under a nitrogen atmosphere for 22 hrs. The reaction mixture was diluted to 600 ml with water and then titrated to a pH of 7.5 with concentrated hydrochloric acid. The mixture was then filtered and the filter cake was extracted with 1.5 liter of hot water. The filtrate obtained was concentrated to a solid residue. This residue was dissolved in hot absolute ethyl alcohol and filtered. The filtrate obtained was concentrated to a solid which was dissolved in 300 ml of 2-propanol and filtered. The filtrate obtained was concentrated to 200 ml and cooled to 0° C., whereby a gel was obtained. This gel was left at room temperature and a crystalline solid was collected therefrom by filtration and dried to give 2.9 g (39%) of the titled compound as a yellow solid, m.p. 259°-260° C.

reactant | 5-chloro-7-(4-methylthiobenzoyl)indolin-2-one | 20.0 mmol, 6.4 g | ClC=1C=C2CC(NC2=C(C1)C(C1=CC=C(C=C1)C)=S)=O | C16H12ClNOS
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 3N, 110 ml | [OH-].[Na+]
solvent | water | O | H2O
product | Sodium 2-amino-5-chloro-3-(4-methylthiobenzoyl)phenylacetate hydrate | 2.9 g, 39% | O.NC1=C(C=C(C=C1C(C1=CC=C(C=C1)C)=S)Cl)CC(=O)[O-].[Na+] | InChI=1S/C16H14ClNO2S.Na.H2O/c1-9-2-4-10(5-3-9)16(21)13-8-12(17)6-11(15(13)18)7-14(19)20;;/h2-6,8H,7,18H2,1H3,(H,19,20);;1H2/q;+1;/p-1
